US04874763
3.3 4-(4'-Chloromethylbenzyl)benzotrifluoride
In a 250 ml of round-bottom three-necked flask, 0.68 g of zinc chloride (dried for 3 hours under vacuum at 100° C.); 4.0 g of 1,3,5-trioxane; 16.0 g of 4-trifluoromethyldiphenylmethane and 4.5 ml of 100% acetic acid are combined, heated to 60° C. and dried halogen chloride gas is introduced. The result is a two phase system that turns brown. HCl was introduced for a total of 3 hours. Following 6 hours of reaction time, the conversion is d.c. controlled (developing agent: petroleum benzin 60°-80° C., result: no conversion, starting material). Once again 0.68 g of ZnCl2 and 2.0 g of 1,3,5-trioxane are added to the reaction mixture and stirred overnight. The reaction mixture was stirred for a total of 30 hours at 60° C., whereby following dc result, approximately 20% of the desired compound formed. The mixture was cooled to room temperature and diluted with 150 ml of diethyl ether. The ether solution was washed to neutral several times with a total of 2.5 liters of water. The organic phase was shaken once with 80 ml of a saturated sodium hydrogen carbonate solution and then washed to neutral 2 times with 90 ml of water each time. The organic phase was dried over sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated in a rotary evaporator (30° C., water-jet vacuum).

reactant | 1,3,5-trioxane | 4.0 g | O1COCOC1 | C3H6O3
reactant | 4-trifluoromethyldiphenylmethane | 16.0 g | C1=CC=C(C=C1)CC2=CC=C(C=C2)C(F)(F)F | C14H11F3
reactant | HCl | Cl | ClH
reactant | 1,3,5-trioxane | 2.0 g | O1COCOC1 | C3H6O3
catalyst | zinc chloride | 0.68 g | [Cl-].[Zn+2].[Cl-]
catalyst | ZnCl2 | 0.68 g | [Cl-].[Cl-].[Zn+2]
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
product | 4-(4'-Chloromethylbenzyl)benzotrifluoride | approximately 20% | ClCC1=CC=C(CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H12ClF3
